US08487108B2
To a suspension of the phosphonium salt (69 g, 1.5 eg) in dry THF (1100 mL) at 0° C. under nitrogen atmosphere was added n-BuLi (2.5 M, 111 mL, 0.413 mol). The solution was stirred for 1 hr, followed by addition of dihydro-2H-pyran-3(4H)-one (11.5 g, 0.115 mol). Stirring was continued at rt overnight. The mixture was quenched by sat. aq. NH4Cl, and then filtered. The filtrate was dried over Na2SO4, and concentrated in vacuo to give the crude product, which was purified through column chromatography to give 3-(dihydro-2H-pyran-3(4H)-ylidene)propan-1-ol (11.2 g, 69%). 1H NMR (CD3OD) δ 4.2-3.9 (d, 2H), 3.8-3.5 (m, 4H), 2.4-2.2 (m, 4H), 5.3-5.2 (d, 1H), 2.1-1.8 (s, 1H), 1.8-1.6 (m, 2H).

reactant | phosphonium | 69 g | [PH4+]
reactant | n-BuLi | 0.413 mol, 2.5 M, 111 mL | [Li]CCCC
reactant | dihydro-2H-pyran-3(4H)-one | 0.115 mol, 11.5 g | O1CC(CCC1)=O | C5H8O2
reactant | THF | 1100 mL | C1CCOC1 | C4H8O
product | 3-(dihydro-2H-pyran-3(4H)-ylidene)propan-1-ol | 11.2 g, 69% | O1CC(CCC1)=CCCO | C8H14O2
